US08278482B2
Benzyl 4-(diethylamino)-2-methylbutan-2-ylcarbamate
Crude N1,N1-diethyl-3-methylbutane-1,3-diamine (7.00 g, 44.2 mmol) was dissolved into THF (100 mL). To this solution was added CbzOSu (11.0 g, 1 equiv, 44.2 mmol) in one portion. The reaction was left to stir at room temperature for 2 d. The solvent was removed and the residue was taken up in a mixture of ethyl acetate (150 mL) and water (100 mL). The layers were separated and the organic layer washed with saturated sodium bicarbonate (2×100 mL), water (100 mL) and brine (100 mL). The organic layer was dried over anhydrous MgSO4, filtered and concentrated to a pale yellow oil. The crude oil was purified on an ISCO purification system with gradient elution from 1-5% methanol in DCM. The desired fraction was collected and concentrated to give a colorless oil (6.7 g, yield: 37.8%). 1H NMR (CDCl3, 400 MHz): δ 1.00-1.04 (t, J=7.0, 6H),1.37 (s, 6H), 1.57-1.61 (t, J=6.2, 2H), 2.45-2.51 (q, J=7.0, 4H), 2.52-2.56 (t, J=6.0, 2 H), 5.04 (s, 2H), 7.27-7.36 (m, 5H), 7.57 (bs, 1H). LRMS (ESI+) for C17H28N2O2 (292.2); Found: 293 (MH+).

reactant | N1,N1-diethyl-3-methylbutane-1,3-diamine | 44.2 mmol, 7.00 g | C(C)N(CCC(C)(N)C)CC | C9H22N2
reactant | CbzOSu | 44.2 mmol, 11.0 g, 1 equiv | C(=O)(OCC1=CC=CC=C1)ON1C(=O)CCC1=O | C12H11NO5
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | Benzyl 4-(diethylamino)-2-methylbutan-2-ylcarbamate | 6.7 g, yield: 37.8% | C(C)N(CCC(C)(C)NC(OCC1=CC=CC=C1)=O)CC | C17H28N2O2
